US06326369B1
N,N-Dimethyl-4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzamide
The mixture of 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid (2.00 g), dimethylammonium hydrochloride (783 mg), 1-ethyl-3-(3-dimethylaminopropyl)carboduimide hydrochloride (1.84 g), 1-hydroxybenzotriazole monohydrate (1.47 g), and triethylamine (4.01 ml) in THF (40 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with ethyl acetate and the organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2 to ethyl acetate) to yield the entitled compound (2.12 g) as an oil.

reactant | 4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzoic acid | 2.00 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCOC1=CC=C(C(=O)O)C=C1 | C23H28O7
reactant | dimethylammonium hydrochloride | 783 mg | Cl.C[NH2+]C
reactant | 1-hydroxybenzotriazole monohydrate | 1.47 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 4.01 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-Dimethyl-4-[3-(4,5,6,7-tetramethoxyindan-2-yl)propoxy]benzamide | 2.12 g | CN(C(C1=CC=C(C=C1)OCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)=O)C | C25H33NO6
